US08871767B2
2-bromo-1-(4-methyl-3-nitrophenyl)propan-1-one
To a solution of 1-(4-methyl-3-nitrophenyl)propan-1-one (6.6 g, 34.1 mmol) in CH2Cl2 (200 mL) is added bromine (34.1 mmol) dropwise over 20 minutes. The reaction is stirred for 4 hours at room temp. and then washed with sat. aqueous NaHCO3 (100 mL), organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness to afford 9.0 g (97%) of the title compound as an orange oil: Rf 0.53 (1:1 CH2Cl2:hexanes).

reactant | 1-(4-methyl-3-nitrophenyl)propan-1-one | 34.1 mmol, 6.6 g | CC1=C(C=C(C=C1)C(CC)=O)[N+](=O)[O-] | C10H11NO3
reactant | bromine | 34.1 mmol | BrBr | Br2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-(4-methyl-3-nitrophenyl)propan-1-one | 9.0 g, 97% | BrC(C(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-])C | C10H10BrNO3
